US05457134
Synthesis of N-butyl-3,4,4-trifluoro-3-butenamide (Compound 103)
2.5 g (0.0158 mole) 3,4,4-trifluoro-3-butenoyl chloride is added to a mixture of water (15 mL), dichloromethane (15 mL) and n-butyl amine (2.34 g, 0.032 mole) with stirring at 0° C. After stirring for 30 min, the organic layer is successively washed with 2N HCl, water, 5% sodium bicarbonate and brine, and dried. Evaporation of the solvent gave 2.85 g of title compound as a white solid, a 92% yield. m.p. 34°-36° C.

reactant | 3,4,4-trifluoro-3-butenoyl chloride | 0.0158 mole, 2.5 g | FC(CC(=O)Cl)=C(F)F | C4H2ClF3O
reactant | water | 15 mL | O | H2O
reactant | n-butyl amine | 0.032 mole, 2.34 g | C(CCC)N | C4H11N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-butyl-3,4,4-trifluoro-3-butenamide | 2.85 g, 92% yield | C(CCC)NC(CC(=C(F)F)F)=O | C8H12F3NO
